US08211908B2
To 184 mL of 80% trifluoroacetic acid, 4.60 g of 1-(1,3-dioxolan-2-ylmethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one was dissolved, and the resultant solution was stirred at room temperature for 11 hours and at 60° C. for 3.5 hours. The reaction mixture was charged with chloroform and alkalified with a 10% aqueous sodium hydroxide solution under cooling with ice. The organic layer was separated, and washed with an aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain (7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde as a yellow solid.

reactant | trifluoroacetic acid | 184 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(1,3-dioxolan-2-ylmethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 4.60 g | O1C(OCC1)CN1C(C=CC2=NC=C(C=C12)OC)=O | C13H14N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | COC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C11H10N2O3
